US06858627B2
Synthesis of 4-{1-[((E)-but-2-enyl)oxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline
6-(2-Methoxyphenyl)-2,2-dimethyl-4-[1-(3-phenylpropoxy)ethyl]-1,2-dihydroquinoline 4-(1-Hydroxyethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester (116 mg) in 2 mL of DMSO was treated with 334 μL of 1 M solution of sodium bis(trimethylsilyl)amide in THF and 52 μL of 1-bromo-3-phenylpropane to give the alkylated product, which was then deprotected (as above) to yield 31 mg of the title compound as an oil.

reactant | 6-(2-Methoxyphenyl)-2,2-dimethyl-4-[1-(3-phenylpropoxy)ethyl]-1,2-dihydroquinoline 4-(1-Hydroxyethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester | 116 mg | C(C)(C)(C)OC(=O)N1C(C=C(C2=CC(=CC=C12)C1=C(C=CC=C1)OC)C(C)O)(C)C.COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)C(C)OCCCC1=CC=CC=C1
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | THF | C1CCOC1 | C4H8O
solvent | 1-bromo-3-phenylpropane | 52 μL | BrCCCC1=CC=CC=C1 | C9H11Br
product | 4-{1-[((E)-but-2-enyl)oxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline | 31 mg | C(\C=C\C)OC(C)C1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C24H29NO2
